US05565449
Tin (II) chloride (12.2 g, 64.4 mmol) was added to a solution of 5.12 g (12.9 mmol) of N-(5-(4-cyanobenzyloxy)-2-nitrobenzoyl)-b-alanine ethyl ester in 40 mL of 1:1 ethyl acetate/ethanol and the mixture heated to 70° C. for 15 min, cooled, and poured into a mixture of ice water, 1N sodium bicarbonate, and ethyl acetate. 1N sodium hydroxide was added carefully until a clear solution resulted and the aqueous phase was separated and extracted with ethyl acetate. The combined organics were washed with water, brine, dried over anhydrous magnesium sulfate, and concentrated to give a dark solid that was purified by chromatography (silica gel-60, 1:1 ethyl acetate/hexane) to give 2.51 g (53%) of N-(5-(4-cyanobenzyloxy)-2-aminobenzoyl)-b-alanine ethyl ester as a light yellow solid. 1H NMR (300 MHz, CDCl3) d 7.67 (2H, d, J=8.3 Hz, NC-Ar-H2), 7.52 (2H, d, J=8.3 Hz, NC-Ar-H2), 6.94 (1H, d, J=2.9 Hz, O-Ar-H), 6.89 (1H, dd, J=2.9, 8.8 Hz, O-Ar-H), 6.78 (1H, b, N-H), 6.66 (1H, d, J=8.8 Hz, O-Ar-H), 5.04 (2H, s, ArCH2O), 4.16 (2H, q, J=7.3 Hz, OCH2CH3), 3.66 (2H, bq, J=5.8 Hz, NHCH2CH2), 2.62 (2H, t, J=5.8 Hz, NHCH2CH2), 1.27 (3H, t, J=7.3 Hz, OCH2CH3); Exact mass (FAB, M+H+) calcd for C20H22N3O4 : 368.1610; Found: 368.1603.

reactant | Tin (II) chloride | 64.4 mmol, 12.2 g | [Sn](Cl)Cl
reactant | N-(5-(4-cyanobenzyloxy)-2-nitrobenzoyl)-b-alanine ethyl ester | 12.9 mmol, 5.12 g | C(C)OC(CCNC(C1=C(C=CC(=C1)OCC1=CC=C(C=C1)C#N)[N+](=O)[O-])=O)=O | C20H19N3O6
reactant | sodium bicarbonate | 1N | C([O-])(O)=O.[Na+]
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | ethyl acetate ethanol | 40 mL | C(C)(=O)OCC.C(C)O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(5-(4-cyanobenzyloxy)-2-aminobenzoyl)-b-alanine ethyl ester | 2.51 g, 53% | C(C)OC(CCNC(C1=C(C=CC(=C1)OCC1=CC=C(C=C1)C#N)N)=O)=O | C20H21N3O4
